US06673803B2
1,1′-(Azodicarbonyl)dipiperidine (560 mg, 2.2 mmol) was added in portions to a mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (240 mg, 0.75 mmol), (prepared as described for the starting material in Example 2), tetrahydro-3-furanmethanol (90 mg, 0.88 mmol) and tributylphosphine (440 mg, 2.2 mmol) in methylene chloride (12 ml) and the mixture stirred for 18 hours. The mixture was diluted with ether, and the resulting precipitate was removed by filtration. The solvent was removed from the filtrate by evaporation, and the residue was dissolved in acetone and ethereal hydrogen chloride (0.75 ml of a 1M solution, 0.75 mmol) was added. The mixture was diluted with ether and the resulting precipitate was collected by filtration. The solid was purified by column chromatography eluting with methylene chloride/acetonitrile/methanol (a gradient from 50150/1 to 50/5012). The purified product was triturated with ether, collected by filtration and dried to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(tetrahydrofuran-3-ylmethoxy)quinazoline (93 mg, 31%).

reactant | 1,1′-(Azodicarbonyl)dipiperidine | 2.2 mmol, 560 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.75 mmol, 240 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | tetrahydro-3-furanmethanol | 0.88 mmol, 90 mg | O1CC(CC1)CO | C5H10O2
reactant | tributylphosphine | 2.2 mmol, 440 mg | C(CCC)P(CCCC)CCCC | C12H27P
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(tetrahydrofuran-3-ylmethoxy)quinazoline | 93 mg, 31% | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2COCC2)C=C1)F | C20H19ClFN3O3
